US07446222B2
{5′-Chloro-2′-[(phenylmethyl)oxy]-2-biphenylyl}boronic acid
1.6M butyllithium in hexanes (16.8 ml, 26.88 mmol) was added over 10 minutes to a stirred solution of 2′-bromo-5-chloro-2-[(phenylmethyl)oxy]biphenyl (9.29 g, 25.56 mmol) in tetrahydrofuran (120 ml) at −78° C. under nitrogen. After stirring for 15 minutes triisopropyl borate (9.61 g, 51.12 mmol) was added over 2 minutes and the mixture allowed to warm to room temperature. 2M hydrochloric acid (150 ml) was added with vigorous stirring for 25 minutes and the organic phase was separated, dried (magnesium sulphate) and evaporated. The residue was purified by chromatography on silica eluting with ethyl acetate/iso-hexane (1:4) then triturated with iso-hexane to give 5.15 g of white solid.

reactant | butyllithium | 1.6M | C(CCC)[Li]
reactant | 2′-bromo-5-chloro-2-[(phenylmethyl)oxy]biphenyl | 25.56 mmol, 9.29 g | BrC1=C(C=CC=C1)C1=C(C=CC(=C1)Cl)OCC1=CC=CC=C1 | C19H14BrClO
reactant | triisopropyl borate | 51.12 mmol, 9.61 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 2M, 150 ml | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | {5′-Chloro-2′-[(phenylmethyl)oxy]-2-biphenylyl}boronic acid | 5.15 g | ClC=1C=CC(=C(C1)C1=C(C=CC=C1)B(O)O)OCC1=CC=CC=C1 | C19H16BClO3
